US20010049441A1
A mixture of 5-azaindole (0.5 g, 4.23 mmol), 1,2,3,5,6,8,8a-heptahydrohydro-7-oxo-indolizine (589 mg, 4.23 mmol) and pyrrolidine (3.0 g, 42.3 mmol) in ethanol (4 mL) were heated to reflux for 6 hrs. The reaction mixture was cooled, filtered, and the collected solid washed with ether to give 3-(1,2,3,5,8,8a-hexahydro-7-indolizinyl)-1H-5-Azaindole (0.521 g, 51.6%).

reactant | 5-azaindole | 4.23 mmol, 0.5 g | N1C=CC2=CN=CC=C12 | C7H6N2
reactant | pyrrolidine | 42.3 mmol, 3.0 g | N1CCCC1 | C4H9N
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 3-(1,2,3,5,8,8a-hexahydro-7-indolizinyl)-1H-5-Azaindole | 0.521 g, 51.6% | C1CCN2CC=C(CC12)C1=CNC2=CC=NC=C12 | C15H17N3
